US04180509
p-(2,4-Dimethoxybenzyloxy)aniline (2.5 g, 0.01 M) is diazotized with concentrated hydrochloric acid (6 ml) and sodium nitrite (1 g) in water (2 ml) at 0° C. This solution is treated with stannous chloride dihydrate (7 g) in concentrated hydrochloric acid (20 ml) at 0° C. for 2 hours. After 12 hours at 0° C. the precipitate is filtered off and recrystallized from ethanol to afford p-(2,4-dimethoxybenzyloxy)phenyl hydrazine hydrochloride. The free base is liberated by treatment with aqueous sodium carbonate and extraction into chloroform.

reactant | p-(2,4-Dimethoxybenzyloxy)aniline | 0.01 M, 2.5 g | COC1=C(COC2=CC=C(N)C=C2)C=CC(=C1)OC | C15H17NO3
reactant | sodium nitrite | 1 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | water | 2 ml | O | H2O
product | p-(2,4-dimethoxybenzyloxy)phenyl hydrazine hydrochloride | Cl.COC1=C(COC2=CC=C(C=C2)NN)C=CC(=C1)OC | InChI=1S/C15H18N2O3.ClH/c1-18-14-6-3-11(15(9-14)19-2)10-20-13-7-4-12(17-16)5-8-13;/h3-9,17H,10,16H2,1-2H3;1H
